US04956359
3-(4-Fluorophenoxy)-1-azetidinecarbonyl chloride
A solution of 52.09 g (0.527 mole) of phosgene in 500 ml of methylene chloride was stirred with 73 g (0.53 mole) of potassium carbonate under nitrogen atmosphere for 30 min, then treated with 146.3 g (0.439 mole) of 1-diphenylmethyl-3-(4-fluorophenoxy)azetidine in 300 ml of methylene chloride added dropwise. After stirring for 18 hr, the reaction mixture was treated with 200 ml of water added slowly. The aqueous phase was separated and the organic solution dried by filtration through Whatman phase separating filter paper then concentrated in vacuo to a pale amber oil. Trituration of the oil with 30/60 petroleum ether yielded a crude tacky solid, 89.3 g (88.6%). A portion of this solid was recrystallized from 30/60 petroleum ether yielding a fine white crystalline product, m.p. 44°-52° C. A second recrystallization from isopropyl ether yielded fine white crystals, m.p. 57°-58.5° C.

reactant | phosgene | 0.527 mole, 52.09 g | C(=O)(Cl)Cl | CCl2O
reactant | potassium carbonate | 0.53 mole, 73 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-diphenylmethyl-3-(4-fluorophenoxy)azetidine | 0.439 mole, 146.3 g | C1(=CC=CC=C1)C(N1CC(C1)OC1=CC=C(C=C1)F)C1=CC=CC=C1 | C22H20FNO
reactant | water | 200 ml | O | H2O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-Fluorophenoxy)-1-azetidinecarbonyl chloride | FC1=CC=C(OC2CN(C2)C(=O)Cl)C=C1 | C10H9ClFNO2
